### PR TITLE
Add min, max and absolute value for unnormalised rationals

### PR DESCRIPTION
**Pull request by uzytkownik**

### CODE REVIEW

File: src/Data/Rational/Unnormalised/Base.agda [hunk 1]
```diff
@@ -9,7 +9,7 @@
 module Data.Rational.Unnormalised.Base where
 
 open import Data.Integer.Base as ℤ
-  using (ℤ; ∣_∣; +_; +0; +[1+_]; -[1+_]; +<+; +≤+)
+  using (ℤ; +_; +0; +[1+_]; -[1+_]; +<+; +≤+) renaming (∣_∣ to ∣_∣ᶻ)
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Base.agda:12]: More consistent to hide `|_|` and refer to it as `Z.|_|`

File: CHANGELOG.md [hunk 2]
```diff
@@ -558,11 +564,161 @@ Other minor additions
   *-distrib-⊓           : _*_ DistributesOver _⊓_
   ```
 
+* Add new functions to `Data.Rational.Unnormalised`:
+  ```agda
+  _⊔_ : (p q : ℚᵘ) → ℚᵘ
+  _⊓_ : (p q : ℚᵘ) → ℚᵘ
```
Comment (MatthewDaggitt) [inline CHANGELOG.md:570]: Missing `|_|` and the closing backticks

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 3]
```diff
@@ -14,17 +14,20 @@ open import Algebra.Consequences.Propositional
 open import Data.Nat.Base as ℕ using (suc; pred)
 import Data.Nat.Properties as ℕ
 open import Data.Nat.Solver renaming (module +-*-Solver to ℕ-solver)
+open import Data.Sign using (Sign) renaming (_*_ to 𝕊*)
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:17]: again better to import this as `𝕊` and refer to it as `𝕊.*`

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 4]
```diff
@@ -127,13 +143,24 @@ neg-involutive p rewrite neg-involutive-≡ p = ≃-refl
...
+neg-cancel-< : ∀ {p q} → - p < - q → q < p
+neg-cancel-< {p} {q} (*<* -↥p↧q<-↥q↧p) = *<* $ begin-strict
+  ↥ q ℤ.* ↧ p                    ≡˘⟨ ℤ.neg-involutive (↥ q ℤ.* ↧ p) ⟩
+  ℤ.- ℤ.- (↥ q ℤ.* ↧ p)          ≡⟨ cong ℤ.-_ (ℤ.neg-distribˡ-* (↥ q) (↧ p)) ⟩
+  ℤ.- ((ℤ.- ↥ q) ℤ.* ↧ p)        <⟨ ℤ.neg-mono-< -↥p↧q<-↥q↧p ⟩
+  ℤ.- ((ℤ.- ↥ p) ℤ.* ↧ q)        ≡˘⟨ cong ℤ.-_ (ℤ.neg-distribˡ-* (↥ p) (↧ q)) ⟩
+  ℤ.- ℤ.- (↥ p ℤ.* ↧ q)          ≡⟨ ℤ.neg-involutive (↥ p ℤ.* ↧ q) ⟩
+  ↥ p ℤ.* ↧ q                    ∎
+  where
+    open ℤ.≤-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:162]: Should be on the same line

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 5]
```diff
@@ -127,13 +143,24 @@ neg-involutive p rewrite neg-involutive-≡ p = ≃-refl
...
   ↥(- q) ℤ.* ↧ p            ∎ where open ≡-Reasoning
 
-neg-mono-<-> : -_ Preserves  _<_ ⟶ _>_
-neg-mono-<-> {p} {q} (*<* p<q) = *<* $ begin-strict
+neg-mono-< : -_ Preserves  _<_ ⟶ _>_
+neg-mono-< {p} {q} (*<* p<q) = *<* $ begin-strict
   ℤ.-  ↥ q ℤ.* ↧ p    ≡˘⟨ ℤ.neg-distribˡ-* (↥ q) (↧ p) ⟩
   ℤ.- (↥ q ℤ.* ↧ p)   <⟨ ℤ.neg-mono-< p<q ⟩
   ℤ.- (↥ p ℤ.* ↧ q)   ≡⟨ ℤ.neg-distribˡ-* (↥ p) (↧ q) ⟩
   ↥ (- p) ℤ.* ↧ (- q) ∎ where open ℤ.≤-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:151]: `where` should be on the next line

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 6]
```diff
@@ -1099,3 +1288,830 @@ private
...
+
+------------------------------------------------------------------------
+-- DEPRECATED NAMES
+------------------------------------------------------------------------
+-- Please use the new names as continuing support for the old names is
+-- not guaranteed.
+
+-- Version 1.5
+
+neg-mono-<-> = neg-mono-<
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:2112]: Missing warning for `neg-mono-≤-≥`

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 7]
```diff
@@ -255,6 +288,20 @@ drop-*<* (*<* pq<qp) = pq<qp
 ≮⇒≥ : _≮_ ⇒ _≥_
 ≮⇒≥ p≮q = *≤* (ℤ.≮⇒≥ (p≮q ∘ *<*))
 
+p≄0⇒∣↥p∣≢0 : ∀ p → p ≠ 0ℚᵘ → ℤ.∣ (↥ p) ∣ ≢0
+p≄0⇒∣↥p∣≢0 p = Dec.fromWitnessFalse ∘ contraposition (lemma₁ p)
+  where
+    open ≡-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:294]: You don't use the reasoning, same in proof below.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 8]
```diff
@@ -255,6 +288,20 @@ drop-*<* (*<* pq<qp) = pq<qp
...
+    lemma₁ : ∀ p → ℤ.∣ (↥ p) ∣ ≡ 0 → p ≃ 0ℚᵘ
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:295]: Both `lemma₁`s seem like they should be top-level proofs.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 9]
```diff
@@ -699,13 +746,24 @@ p-q≃0⇒p≃q p q p-q≃0 = begin-equality
...
+neg-cancel-≤ : ∀ {p q} → - p ≤ - q → q ≤ p
+neg-cancel-≤ {p} {q} (*≤* -↥p↧q≤-↥q↧p) = *≤* $ begin
+  ↥ q ℤ.* ↧ p             ≡˘⟨ ℤ.neg-involutive (↥ q ℤ.* ↧ p) ⟩
+  ℤ.- ℤ.- (↥ q ℤ.* ↧ p)   ≡⟨ cong ℤ.-_ (ℤ.neg-distribˡ-* (↥ q) (↧ p)) ⟩
+  ℤ.- ((ℤ.- ↥ q) ℤ.* ↧ p) ≤⟨ ℤ.neg-mono-≤ -↥p↧q≤-↥q↧p ⟩
+  ℤ.- ((ℤ.- ↥ p) ℤ.* ↧ q) ≡˘⟨ cong ℤ.-_ (ℤ.neg-distribˡ-* (↥ p) (↧ q)) ⟩
+  ℤ.- ℤ.- (↥ p ℤ.* ↧ q)   ≡⟨ ℤ.neg-involutive (↥ p ℤ.* ↧ q) ⟩
+  ↥ p ℤ.* ↧ q ∎
+  where
+    open ℤ.≤-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:765]: Should be on the same line. Please go through and check for other occurences!

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 10]
```diff
@@ -946,6 +1010,33 @@ neg-distribˡ-* p q = *≡* $ cong (ℤ._* (↧ p ℤ.* ↧ q))
 neg-distribʳ-* : ∀ p q → - (p * q) ≃ p * - q
 neg-distribʳ-* p q = *≡* $ cong (ℤ._* (↧ p ℤ.* ↧ q))
                          $ ℤ.neg-distribʳ-* (↥ p) (↥ q)
+
+------------------------------------------------------------------------
+-- Properties of _*_ and _/_
+
+*-homoˡ-id : ∀ p {q r} pr≢0 r≢0 → ((ℤ.+ p ℤ.* q) / (p ℕ.* r)) {pr≢0} ≃ (q / r) {r≢0}
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1017]: Variable names `p`, `q` and `r` should be used for rationals only. Use `m`, `n` for naturals and `i` and `j` for integers.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 11]
```diff
@@ -946,6 +1010,33 @@ neg-distribˡ-* p q = *≡* $ cong (ℤ._* (↧ p ℤ.* ↧ q))
...
+  (↥ ((ℤ.+ p ℤ.* q) / (p ℕ.* r))) ℤ.* (↧ (q / r)) ≡⟨ cong (ℤ._* (↧ (q / r) {r≢0})) (↥[p/q]≡p (ℤ.+ p ℤ.* q) (p ℕ.* r) {pr≢0}) ⟩
+  (ℤ.+ p ℤ.* q) ℤ.* (↧ (q / r))                   ≡⟨ cong ((ℤ.+ p ℤ.* q) ℤ.*_) (↧[p/q]≡q q r {r≢0}) ⟩
+  (ℤ.+ p ℤ.* q) ℤ.* ℤ.+ r                         ≡⟨ solve 3 (λ a b c → ((a :* b) :* c) := (b :* (a :* c))) refl (ℤ.+ p) q (ℤ.+ r) ⟩
+  (q ℤ.* (ℤ.+ p ℤ.* ℤ.+ r))                       ≡˘⟨ cong (ℤ._* (ℤ.+ p ℤ.* ℤ.+ r)) (↥[p/q]≡p q r {r≢0}) ⟩
+  (↥ (q / r)) ℤ.* (ℤ.+ p ℤ.* ℤ.+ r)               ≡⟨ cong ((↥ (q / r) {r≢0}) ℤ.*_) (ℤ.pos-distrib-* p r) ⟩
+  (↥ (q / r)) ℤ.* (ℤ.+ (p ℕ.* r))                 ≡˘⟨ cong ((↥ (q / r) {r≢0}) ℤ.*_) (↧[p/q]≡q (ℤ.+ p ℤ.* q) (p ℕ.* r) {pr≢0}) ⟩
+  (↥ (q / r)) ℤ.* (↧ ((ℤ.+ p ℤ.* q) / (p ℕ.* r))) ∎)
+  where
+    open ℤ.≤-Reasoning
+    open ℤ-solver
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1028]: Can be written as `where open ℤ.≤-Reasoning; open ℤ-solver`

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 12]
```diff
@@ -972,6 +1063,26 @@ private
...
+*-cancelʳ-≤-neg : ∀ {r} → Negative r → ∀ {p q} → p * r ≤ q * r → q ≤ p
+*-cancelʳ-≤-neg {r} r<0 {p} {q} pr≤qr = neg-cancel-≤ (*-cancelʳ-≤-pos (positive { - r} (neg-mono-< {r} {0ℚᵘ} (negative⁻¹ r<0))) (begin
+  - p * - r                                ≈˘⟨ neg-distribˡ-* p (- r) ⟩
+  - (p * - r)                              ≈˘⟨ -‿cong (neg-distribʳ-* p r) ⟩
+  - - (p * r)                              ≈⟨ neg-involutive (p * r) ⟩
+  p * r                                    ≤⟨ pr≤qr ⟩
+  q * r                                    ≈˘⟨ neg-involutive (q * r) ⟩
+  - - (q * r)                              ≈⟨ -‿cong (neg-distribʳ-* q r) ⟩
+  - (q * - r)                              ≈⟨ neg-distribˡ-* q (- r) ⟩
+  - q * - r                                ∎))
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1075]: I don't think this "global file alignment" of equational reasoning works very well. Firstly it's very brittle (make one line longer somewhere and you have to adjust all the proofs) and secondly it's hard to read along the line. Equational reasoning should be aligned on a proof by proof basis, with 2 spaces in between the longest term and the start of the reasoning.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 13]
```diff
@@ -994,6 +1105,35 @@ private
 *-monoˡ-≤-pos : ∀ {r} → Positive r → (_* r) Preserves _≤_ ⟶ _≤_
 *-monoˡ-≤-pos {r} = *-monoˡ-≤-nonNeg ∘ (positive⇒nonNegative {r})
 
+*-monoˡ-≤-nonPos : ∀ {r} → NonPositive r → (_* r) Preserves _≤_ ⟶ _≥_
+*-monoˡ-≤-nonPos {r} r≤0 {p} {q} p≤q = begin
+  (q * r)                                   ≈˘⟨ neg-involutive (q * r) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1110]: No brackets needed.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 14]
```diff
@@ -1026,6 +1166,55 @@ private
   rewrite *-comm-≡ p r
         | *-comm-≡ q r = *-cancelˡ-<-nonNeg {r} r≥0
 
+*-cancelˡ-<-pos : ∀ {r} (r>0 : Positive r) {p q} → r * p < r * q → p < q
+*-cancelˡ-<-pos {r} r>0 {p} {q} rp<rq = *-cancelˡ-<-nonNeg {r} (positive⇒nonNegative {r} r>0) {p} {q} rp<rq
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1170]: Are all these implicits needed?

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 15]
```diff
@@ -1026,6 +1166,55 @@ private
   rewrite *-comm-≡ p r
         | *-comm-≡ q r = *-cancelˡ-<-nonNeg {r} r≥0
 
+*-cancelˡ-<-pos : ∀ {r} (r>0 : Positive r) {p q} → r * p < r * q → p < q
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1169]: No need to name the `Positive r` terms. The same applies to the proofs below.

File: src/Data/Rational/Unnormalised/Base.agda [hunk 16]
```diff
@@ -134,15 +134,26 @@ p - q = p + (- q)
...
 
 -- division: requires a proof that the denominator is not zero
 
-_÷_ : (p q : ℚᵘ) → .{n≢0 : ∣ ↥ q ∣ ≢0} → ℚᵘ
+_÷_ : (p q : ℚᵘ) → .{n≢0 : ∣ ↥ q ∣ᶻ ≢0} → ℚᵘ
 (p ÷ q) {n≢0} = p * (1/_ q {n≢0})
 
+-- max
+_⊔_ : (p q : ℚᵘ) → ℚᵘ
+p ⊔ q = ((↥ p ℤ.* ↧ q) ℤ.⊔ (↥ q ℤ.* ↧ p)) / (↧ₙ p ℕ.* ↧ₙ q)
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Base.agda:148]: Looking at the moderately scary equational proofs below, I'm wondering if this is the best definition. What are the advantages of this over something like the following?
```
p ⊔ q with does (↥ p ℤ.* ↧ q ℤ.≤? ↥ q ℤ.* ↧ p)
... | true  = p
... | false = q
```
I'd imagine the above is significantly easier to work with?

**Review by MatthewDaggitt — COMMENTED** [review]
First half of the review. I'll go through the min/max lemmas once we've settled on a working definition!

File: src/Data/Rational/Unnormalised/Base.agda (hunk 16 above)
Comment (uzytkownik) [reply src/Data/Rational/Unnormalised/Base.agda:148]: Not really I think. It makes other properties much harder as instead of leveraging integer properties you need to split into multiple cases and prove that some of them does not apply. For example `⊓-comm` would have 4 cases and `⊓-assoc` would have 8. 

On the flip side the above property is proven by combination of:
```agda

p≤q⇒p⊓q≃p : p ≤ q → p ⊓ q ≃ p                                                                                                                                                       
q≤p⇒p⊓q≃q : q ≤ p → p ⊓ q ≃ q
≤-total : Total _≤
```

I will think if the reasoning can be replaced by those properties.

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 5 above)
Comment (uzytkownik) [reply src/Data/Rational/Unnormalised/Properties.agda:151]: Should I change `-‿cong` as well (it's previous definition which uses this style).

File: src/Data/Rational/Unnormalised/Base.agda (hunk 16 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Base.agda:148]: Hmm I'm wondering how we can somehow get away with reusing the `Min` and `Max` code here:

https://github.com/agda/agda-stdlib/blob/master/src/Algebra/Construct/NaturalChoice/Min.agda
https://github.com/agda/agda-stdlib/blob/master/src/Algebra/Construct/NaturalChoice/Max.agda

It's tricky though as even accessing the raw definition requires providing a total order, and `Total` proofs aren't designed to be implemented efficiently...

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 11 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Properties.agda:1027]: Not fixed?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 10 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Properties.agda:1016]: Not fixed?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 9 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Properties.agda:764]: Not fixed?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 8 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Properties.agda:294]: Not fixed?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 7 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Properties.agda:293]: Not fixed?

File: src/Data/Rational/Unnormalised/Properties.agda (hunk 5 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Properties.agda]: That'd be great if you were willing to.

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 17]
```diff
@@ -1099,3 +1287,779 @@ private
...
+∣p∣≃0⇒p≃0 : ∀ {p} → ∣ p ∣ ≃ 0ℚᵘ → p ≃ 0ℚᵘ
+∣p∣≃0⇒p≃0 {mkℚᵘ (ℤ.+ n) d-1} p≃0ℚ = p≃0ℚ
+∣p∣≃0⇒p≃0 {mkℚᵘ (-[1+_] n) d-1} (*≡* ())
+
+∣-p∣≡∣p∣ : ∀ p → ∣ - p ∣ ≡ ∣ p ∣
+∣-p∣≡∣p∣ (mkℚᵘ +[1+ n ] d) = refl
+∣-p∣≡∣p∣ (mkℚᵘ (ℤ.+ 0)  d) = refl
+∣-p∣≡∣p∣ (mkℚᵘ -[1+ n ] d) = refl
+
+∣-p∣≃∣p∣ : ∀ p → ∣ - p ∣ ≃ ∣ p ∣
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1971]: Missing from CHANGELOG

File: src/Data/Rational/Unnormalised/Properties.agda [hunk 18]
```diff
@@ -1099,3 +1287,779 @@ private
...
+∣-p∣≃∣p∣ = ≃-reflexive ∘ ∣-p∣≡∣p∣
+
+0≤p⇒∣p∣≡p : ∀ {p} → 0ℚᵘ ≤ p → ∣ p ∣ ≡ p
+0≤p⇒∣p∣≡p {mkℚᵘ (ℤ.+ n)    d-1} 0≤p = refl
+0≤p⇒∣p∣≡p {mkℚᵘ (-[1+ n ]) d-1} 0≤p with nonNegative 0≤p
```
Comment (MatthewDaggitt) [inline src/Data/Rational/Unnormalised/Properties.agda:1976]: Better to do this with `contradiction`

File: src/Data/Rational/Unnormalised/Base.agda (hunk 16 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Base.agda:148]: Just a heads up that I have a way of getting many of the proofs about min and max for free. Going to take a little while to get it working, but just a heads up that I haven't forgotten this!

**Comment by MatthewDaggitt** [comment]
@uzytkownik I've now merged in #1403 so you can now refactor `Data.Rational.Unnormalised.Properties` to follow the same pattern as `Data.Nat.Properties` and `Data.Integer.Properties` and get most of the proofs for min and max for free :tada:

File: src/Data/Rational/Unnormalised/Base.agda (hunk 16 above)
Comment (MatthewDaggitt) [reply src/Data/Rational/Unnormalised/Base.agda:148]: Just coming back to this discussion now that we get most of the properties for free, I really do think the that the definition I propose above is better. Firstly it avoids unnecessarily blowing up the numerator and denominator, and secondly it means that you can work with propositional equality rather than `_≃_`.

**Comment by MatthewDaggitt** [comment]
Just a heads-up that using this for unnormalised rationals is a little bit more involved, as we don't have a poset over propositional equality. I'm therefore in the process of generalising the `Min/MaxOp` modules a bit.

**Comment by MatthewDaggitt** [comment]
Right, I've generalised `MinOp/MaxOp` to work over total preorders rather than total orders. This involved adding in structures and bundles for total preorders.

I've then changed the definition of min and max in unnormalised rationals to a much simpler if-then-else that avoids unnecessarily blowing up the size of the numerators and denominators.

**Comment by MatthewDaggitt** [comment]
The tests are passing, it's only the `stack` stage that is falling over for some reason so I'm going to merge this in.

**Comment by MatthewDaggitt** [comment]
Thanks again for the PR @uzytkownik
